US07592453B2
Methyl 4-(aminocarbonyl)-3-methylbenzoate
A mixture of 4-bromo-2-methylbenzamide (1.65 g, 7.75 mmol), triethylamine (2.17 ml, 15.5 mmol), palladium acetate (0.0873 g, 0.388 mmol), 1,1′-bis(diphenylphosphino)ferrocene (0.215 g, 0.388 mmol), methanol (5 ml) and DMF (15 ml) was stirred under a carbon monoxide atmosphere at 70° C. for 22 hrs. After cooling to room temperature, the reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, and dried (over anhydrous MgSO4). After concentration under reduced pressure, the obtained crystals were recrystallized from ethyl acetate to give the title compound (1.05 g, 70%) as a pale-brown needle.

reactant | 4-bromo-2-methylbenzamide | 7.75 mmol, 1.65 g | BrC1=CC(=C(C(=O)N)C=C1)C | C8H8BrNO
reactant | triethylamine | 15.5 mmol, 2.17 ml | C(C)N(CC)CC | C6H15N
reactant | methanol | 5 ml | CO | CH4O
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 0.388 mmol, 0.0873 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.388 mmol, 0.215 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | Methyl 4-(aminocarbonyl)-3-methylbenzoate | 1.05 g, 70% | NC(=O)C1=C(C=C(C(=O)OC)C=C1)C | C10H11NO3
